### PR TITLE
feat(AlgebraicTopology/SimplexCategory/Augmented): monoidal structure on `AugmentedSimplexCategory`

### PR DESCRIPTION
**Pull request by robin-carlier**
We construct a monoidal category structure on `AugmentedSimplexCategory`. The tensor products corresponds to ordinal sum. We characterize morphisms out of a tensor product of object in terms of their precomposition with canonical maps `x ⟶ x ⊗ y` and `y ⟶ x ⊗ y` coming from the fact that the unit is an initial object.

Finally, we show that `⦋0⦌` admits a canonical internal monoid object structure.

---

- [x] depends on: #22767

I hope to be able to clear the TODO in `AlgebreaicTopology.SimplexCategory.Augmented.Mon_` in future work, as this should be the "right" statement for the monoidal bar construction, but there is still a long way to go.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,115 @@
...
+
+/-- The canonical inclusion from `SimplexCategory` to `AugmentedSimplexCategory`. -/
+@[simps!]
+def inclusion : SimplexCategory ⥤ AugmentedSimplexCategory := WithInitial.incl
+
+instance : inclusion.Full := inferInstanceAs WithInitial.incl.Full
+instance : inclusion.Faithful := inferInstanceAs WithInitial.incl.Faithful
+
+instance : Limits.HasInitial AugmentedSimplexCategory :=
+    inferInstanceAs <| Limits.HasInitial <| WithInitial _
```
Comment (erdOne) [inline Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Basic.lean:45]:
```suggestion
  inferInstanceAs <| Limits.HasInitial <| WithInitial _
```

File: Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,115 @@
...
+  WithInitial.equivComma
+
+/-- Through the equivalence `(AugmentedSimplexCategory ⥤ C) ≌ CosimplicialObject.Augmented C`,
+dropping the augmentation corresponds to precomposition with
+`inclusion : SimplexCategory ⥤ AugmentedSimplexCategory`. -/
+@[simps!]
+def equivAugmentedCosimplicialObjectDrop :
+    equivAugmentedCosimplicialObject.functor ⋙ CosimplicialObject.Augmented.drop ≅
+    (whiskeringLeft _ _ C).obj inclusion :=
+  NatIso.ofComponents (fun _ ↦ Iso.refl _)
```
Comment (erdOne) [inline Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Basic.lean:61]:
```suggestion
  .refl _
```
And same for all the ones below.

File: Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Monoidal.lean [hunk 3]
```diff
@@ -0,0 +1,407 @@
...
+/-- The unit for the monoidal structure on `AugmentedSimplexCategory` is the initial object. -/
+abbrev tensorUnit : AugmentedSimplexCategory := WithInitial.star
+
+/-- The associator isomorphism for the monoidal structure on `AugmentedSimplexCategory` -/
+def associator (x y z : AugmentedSimplexCategory) :
+    tensorObj (tensorObj x y) z ≅ tensorObj x (tensorObj y z) :=
+  match x, y, z with
+  | .of x, .of y, .of z =>
+    eqToIso (congrArg (fun j ↦ WithInitial.of <| SimplexCategory.mk j)
+      (by simp [eq_comm, Nat.add_assoc]))
```
Comment (erdOne) [inline Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Monoidal.lean:108]:
```suggestion
      (by simp [Nat.add_assoc, add_comm 1]))
```

File: Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Monoidal.lean [hunk 4]
```diff
@@ -0,0 +1,407 @@
...
+lemma eqToHom_toOrderHom {x y : SimplexCategory} (h : WithInitial.of x = WithInitial.of y) :
+  SimplexCategory.Hom.toOrderHom (WithInitial.down <| eqToHom h) =
+    (Fin.castOrderIso
+      (congrArg (fun t ↦ t + 1) (by injection h with h; rw [h]))).toOrderEmbedding.toOrderHom := by
+  injection h with h
+  subst h
+  rfl
+
+/-- We will need to make repeated use of this lemma, so we abstract it here. -/
+private lemma eq_comm (n m : ℕ) : (n + 1) + m = n + m + 1 := by simp [Nat.add_assoc, Nat.add_comm 1]
```
Comment (erdOne) [inline Mathlib/AlgebraicTopology/SimplexCategory/Augmented/Monoidal.lean:46]: This can be replaced by `Nat.succ_add` everywhere except the simp call.

**Review by erdOne — COMMENTED** [review]
I lack the relevant mathematics knowledge to review this properly but here are some stylistic improvements.
Would be great if @joelriou or @adamtopaz can take a look at the definitions and docstrings to make sure they are right.

**Comment by grunweg** [comment]
I wanted to assign the dependent PR, I think. Oops. Thanks a lot for reviewing it nevertheless!


I think this depends; both yes and no are valid answers. It can help to know more of a PR series (say, first review a PR for the basics and then another for further results) --- but spreading things out is also fine.

In this case, feel free to either re-assign the PR by hand, or just un-assign yourself (then a bot will make the re-assignment).

**Comment by robin-carlier** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/25743
